US04962108
1-Cyclopropyl-7-(6,8-diazabicyclo[3.2.2]non-6-yl)-6- fluoro-1,4-dihydro-4-oxo -3-quinolinecarboxylic acid
A solution of 0.53 g (2.0 mmol) of 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 0.44 g (2.2 mmol) of 6,8-diazabicyclo[3.2.2]nonane, dihydrochloride, 0.90 ml (6.0 mmol) of 1,8-diazabicyclo[5.4.0]undec-7-ene, and 10 ml of pyridine was heated under reflux for 4 hr. The reaction mixture was cooled to room temperature and the solid was filtered and washed with ethanol to yield 0.39 g of the title compound, mp 273°-276° dec.

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 2.0 mmol, 0.53 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
reactant | 6,8-diazabicyclo[3.2.2]nonane, dihydrochloride | 2.2 mmol, 0.44 g | Cl.Cl.C12CCCC(NC1)CN2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 6.0 mmol, 0.90 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-Cyclopropyl-7-(6,8-diazabicyclo[3.2.2]non-6-yl)-6- fluoro-1,4-dihydro-4-oxo -3-quinolinecarboxylic acid | 0.39 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1C2CCCC(C1)NC2)F)=O)C(=O)O | C20H22FN3O3
